US06225306B1
(2R,3aR)-2-Hydroxy-5-[4-[(2-Phenylbenzoyl) Amino]Benzoyl]-1,2,3,3a,4,5-Hexahydro-Pyrrolo[1,2-a]Quinoxaline
The same procedures used in Example 1 were repeated using (2R, 3aR)-2-hydroxy-1,2,3,3a,4,5-hexahydro-pyrrolo[1,2-a]quinoxaline prepared in Reference Example 17 and 4-[(2-phenylbenzoyl)amino]benzoic acid to give the title compound after recrystallization from ethyl acetate-hexane. Yield 53.1%.

reactant | (2R, 3aR)-2-hydroxy-1,2,3,3a,4,5-hexahydro-pyrrolo[1,2-a]quinoxaline | O[C@@H]1C[C@H]2N(C3=CC=CC=C3NC2)C1 | C11H14N2O
reactant | 4-[(2-phenylbenzoyl)amino]benzoic acid | C1(=CC=CC=C1)C1=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=CC=C1 | C20H15NO3
product | (2R,3aR)-2-Hydroxy-5-[4-[(2-Phenylbenzoyl) Amino]Benzoyl]-1,2,3,3a,4,5-Hexahydro-Pyrrolo[1,2-a]Quinoxaline | Yield 53.1% | O[C@@H]1C[C@H]2N(C3=CC=CC=C3N(C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C2=CC=CC=C2)=O)=O)C1 | C31H27N3O3
